US07041668B2
5.53 g of 4-fluoro-benzenesulfonic acid 2-amino-1H-benzoimidazol-5-yl ester trifluoroacetic acid salt were combinated with 1.8 ml of cyclopropanecarbonylchloride and 5 ml triethylamine in 75 ml dichloromethane. Reaction mixture was stirred at room temperature for 1 hour. Solvents were evaporated under reduced pressure. The residue was then taken up in dichloromethane, washed with water and dried with magnesium sulfate. Dichloromethane was evaporated under reduced pressure and precipitate obtained was dried on glass frit yielding 4.88 g of 4-fluoro-benzenesulfonic acid 2-amino-3-cyclopropanecarbonyl-3H-benzoimidazol-5-yl ester.

reactant | 4-fluoro-benzenesulfonic acid 2-amino-1H-benzoimidazol-5-yl ester trifluoroacetic acid salt | 5.53 g | FC(C(=O)O)(F)F.NC1=NC2=C(N1)C=CC(=C2)OS(=O)(=O)C2=CC=C(C=C2)F
reactant | cyclopropanecarbonylchloride | 1.8 ml | C1(CC1)C(=O)Cl | C4H5ClO
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 4-fluoro-benzenesulfonic acid 2-amino-3-cyclopropanecarbonyl-3H-benzoimidazol-5-yl ester | 4.88 g | NC=1N(C2=C(N1)C=CC(=C2)OS(=O)(=O)C2=CC=C(C=C2)F)C(=O)C2CC2 | C17H14FN3O4S
